US05661183
4-Chloro-5,6-dimethyl-3-hydroxyanthranilic acid
3-Benzyloxy-4-chloro-5,6-dimethylanthranilic acid (10 mg, 0.03 mmol) was dissolved in EtOH (1.5 mL) and 10% Pd/C (2 mg) was added. Hydrogenation at room temperature and atmospheric pressure for 5 h, filtration, evaporation yielded 7 mg of crude product. Purification by preparative HPLC (Lichrosorb-C18, MeOH-Phosphate buffer (pH3) 50:50) adjusting the pH to 5 with NaHCO3 (aq), concentrating by a stream of N2, extracting with EtOAc (3×5 mL), washing the organic phase with brine, drying (MgSO4) and evaporating afforded the title compound (3 mg). 1H NMR (DMSO-d6): δ 3.3 (br, OH), 3.16 (s, 2 H), 2.16 (s, 3 H), 2.15 (s, 3 H); 13C NMR (DMSO-d6): δ 169.92, 137.87, 135.16, 126.38, 123.51, 121.39, 117.31, 17.72, 15.95; MS (EI, 70 eV): m/z (rel.int.) 217/215 (M+, 21/63),199/197 (20/59), 171/169 (37/100).

reactant | 3-Benzyloxy-4-chloro-5,6-dimethylanthranilic acid | 0.03 mmol, 10 mg | C(C1=CC=CC=C1)OC1=C(C(C(=O)O)=C(C(=C1Cl)C)C)N | C16H16ClNO3
solvent | EtOH | 1.5 mL | CCO | C2H6O
catalyst | Pd/C | 2 mg | [Pd] | Pd
product | 4-Chloro-5,6-dimethyl-3-hydroxyanthranilic acid | 3 mg | ClC=1C(=C(C(C(=O)O)=C(C1C)C)N)O | C9H10ClNO3
